US05430047
Step A: Preparation of 3-(3-Oxo-3-phenyl-1-propenyl)-benzoic acid
A mixture of 3-formylbenzoic acid (2 g, 13.32 mmol), acetophenone (1.6 g, 13.32 mmol), and sodium hydroxide (1.06 g, 26.64 mmol) is stirred 18 hours in ethanol-water (175 mL, 1:1) and then acidified with concentrated hydrochloric acid. The resulting solid is collected by filtration and dried to provide 2.84 g of the title compound; mp 198°-201° C.

reactant | 3-formylbenzoic acid | 13.32 mmol, 2 g | C(=O)C=1C=C(C(=O)O)C=CC1 | C8H6O3
reactant | acetophenone | 13.32 mmol, 1.6 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | sodium hydroxide | 26.64 mmol, 1.06 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol water | 175 mL | C(C)O.O
product | 3-(3-Oxo-3-phenyl-1-propenyl)-benzoic acid | 2.84 g | O=C(C=CC=1C=C(C(=O)O)C=CC1)C1=CC=CC=C1 | C16H12O3
